* Simple Analog Phase-Locked Loop
* Demonstrates ltz ngspice shim driving Xyce
*
* Reference: 100kHz sine
* VCO: 80kHz free-run + 200kHz/V gain (SDT-based)
* Loop filter: R=100, C=100n (lead-lag)
*
Vref in 0 SIN(0 1 100k)
Bpd pd 0 V = {V(in) * V(vco)}
R1 pd lpf 100
C1 lpf 0 100n
Bvco vco 0 V = {SIN(6.283185 * (80e3*TIME + 200e3*SDT(V(lpf))))}
.TRAN 0.1u 500u
.PRINT TRAN V(in) V(vco) V(lpf)
.END
